US04734430
A stirred mixture 16.8 grams of 1,5,6,7-tetrahydro-1-methyl-4H-indazol-4-one, 6 grams of 97% sodium hydride, 15 ml of ethyl formate, 3 drops of ethanol and 200 ml of toluene was heated at reflux for 16 hours. The mixture was then cooled and extracted twice with water and the aqueous extracts were combined and washed with ethyl ether. The aqueous solution was acidified with 5 N hydrochloric acid to a pH of approximately 4 and the resultant slurry was extracted several times with dichloromethane. The combined dichloromethane extracts were dried over magnesium sulfate and concentrated under reduced pressure to leave a residual dark oil. The oil was triturated with a 50:50 mixture of hexane and ethyl ether to give 1,5,6,7-tetrahydro-5-hydroxymethylene-1-methyl-4H-indazol-4-one melting at about 93°-95° C.

reactant | 1,5,6,7-tetrahydro-1-methyl-4H-indazol-4-one | 16.8 grams | CN1N=CC=2C(CCCC12)=O | C8H10N2O
reactant | sodium hydride | 6 grams | [H-].[Na+]
reactant | ethyl formate | 15 ml | C(=O)OCC | C3H6O2
catalyst | ethanol | 3 drops | C(C)O | C2H6O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1,5,6,7-tetrahydro-5-hydroxymethylene-1-methyl-4H-indazol-4-one | OC=C1C(C=2C=NN(C2CC1)C)=O | C9H10N2O2
